US07851473B2
(1) 2,2,2-Trichloroethyl (5-chloro-1,3-benzoxazol-2-yl)carbamate
To a solution of 2-amino-5-chlorobenzoxazole (1.00 g, 5.39 mmol) and pyridine (0.564 ml, 7.12 mmol) in tetrahydrofuran (20 ml) was added, under ice-cooling, 2,2,2-trichloroethyl chloroformate (0.850 ml, 7.12 mmol), and the mixture was stirred at room temperature for 2 hours and half. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Hexane was poured to the residue, and 394 mg (19.3%) of the desired product as a solid was separated by filtration.

reactant | 2-amino-5-chlorobenzoxazole | 5.39 mmol, 1.00 g | NC=1OC2=C(N1)C=C(C=C2)Cl | C7H5ClN2O
reactant | pyridine | 7.12 mmol, 0.564 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 7.12 mmol, 0.850 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trichloroethyl (5-chloro-1,3-benzoxazol-2-yl)carbamate | ClC=1C=CC2=C(N=C(O2)NC(OCC(Cl)(Cl)Cl)=O)C1 | C10H6Cl4N2O3
